* NGSPICE file created from new_adder_4bit.ext - technology: sky130A

.subckt sky130_fd_sc_hd__fa_1 A B CIN VGND VNB VPB VPWR COUT SUM
X0 a_76_199# B a_208_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.063 ps=0.72 w=0.42 l=0.15
X1 VGND A a_382_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.0567 ps=0.69 w=0.42 l=0.15
X2 a_738_413# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.06195 pd=0.715 as=0.0567 ps=0.69 w=0.42 l=0.15
X3 a_1091_47# CIN a_995_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0441 pd=0.63 as=0.0693 ps=0.75 w=0.42 l=0.15
X4 VPWR CIN a_738_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0567 ps=0.69 w=0.42 l=0.15
X5 a_382_413# B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.1092 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X6 a_1163_47# B a_1091_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.0441 ps=0.63 w=0.42 l=0.15
X7 VPWR A a_382_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0567 ps=0.69 w=0.42 l=0.15
X8 a_995_47# a_76_199# a_738_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0693 pd=0.75 as=0.06195 ps=0.715 w=0.42 l=0.15
X9 a_382_413# CIN a_76_199# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.0567 ps=0.69 w=0.42 l=0.15
X10 SUM a_995_47# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.10235 ps=0.995 w=0.65 l=0.15
X11 a_208_47# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.063 pd=0.72 as=0.10235 ps=0.995 w=0.42 l=0.15
X12 VGND CIN a_738_47# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.0567 ps=0.69 w=0.42 l=0.15
X13 a_76_199# B a_208_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.063 ps=0.72 w=0.42 l=0.15
X14 a_208_413# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.063 pd=0.72 as=0.14785 ps=1.345 w=0.42 l=0.15
X15 a_738_413# B VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X16 VGND A a_1163_47# VNB sky130_fd_pr__nfet_01v8 ad=0.10235 pd=0.995 as=0.0693 ps=0.75 w=0.42 l=0.15
X17 a_738_47# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1092 ps=1.36 w=0.42 l=0.15
X18 a_738_47# A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.06195 pd=0.715 as=0.0567 ps=0.69 w=0.42 l=0.15
X19 a_1163_413# B a_1091_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0693 pd=0.75 as=0.0441 ps=0.63 w=0.42 l=0.15
X20 VPWR A a_1163_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14785 pd=1.345 as=0.0693 ps=0.75 w=0.42 l=0.15
X21 a_382_47# CIN a_76_199# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.0567 ps=0.69 w=0.42 l=0.15
X22 a_382_47# B VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.0567 ps=0.69 w=0.42 l=0.15
X23 SUM a_995_47# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.14785 ps=1.345 w=1 l=0.15
X24 a_995_47# a_76_199# a_738_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0693 pd=0.75 as=0.06195 ps=0.715 w=0.42 l=0.15
X25 VPWR a_76_199# COUT VPB sky130_fd_pr__pfet_01v8_hvt ad=0.14785 pd=1.345 as=0.26 ps=2.52 w=1 l=0.15
X26 a_1091_413# CIN a_995_47# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0441 pd=0.63 as=0.0693 ps=0.75 w=0.42 l=0.15
X27 VGND a_76_199# COUT VNB sky130_fd_pr__nfet_01v8 ad=0.10235 pd=0.995 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt new_adder_4bit S0 B0 A0 S1 B1 A1 S2 B2 A2 S3 A3 B3 CIN COUT VDD GND
Xx1 A0 B0 CIN GND GND VDD VDD x2/CIN S0 sky130_fd_sc_hd__fa_1
Xx2 A1 B1 x2/CIN GND GND VDD VDD x3/CIN S1 sky130_fd_sc_hd__fa_1
Xx3 A2 B2 x3/CIN GND GND VDD VDD x4/CIN S2 sky130_fd_sc_hd__fa_1
Xx4 A3 B3 x4/CIN GND GND VDD VDD COUT S3 sky130_fd_sc_hd__fa_1
.ends

